US08426540B2
Using 2-amino-4-nitrophenol and 5-(4-nitrophenyl)furan-2-carbaldehyde, 4.10 g of 4-nitro-2-{[5-(4-nitrophenyl)furan-2-yl]methyleneamino}phenol were obtained as a yellow powder (yield 97%).

reactant | 2-amino-4-nitrophenol | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | 5-(4-nitrophenyl)furan-2-carbaldehyde | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7NO4
product | 4-nitro-2-{[5-(4-nitrophenyl)furan-2-yl]methyleneamino}phenol | 4.10 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)N=CC=1OC(=CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H11N3O6
